US05189054
Suspend the 3-amino-2-carbethoxy-6-nitroindole (0.6 mmol) in tetrahydrofuran (mL) and add triethylamine (0.62 mmol). Add benzoyl chloride (0.62 mmol) and stir for 30 minutes at room temperature. Dilute the reaction with ethyl acetate, rinse with 1M HCl, water, dry over magnesium sulfate, filter and concentrate in vacuo. Recrystallize from hot ethyl acetate/hexane to yield 3-[(phenacyl)amino]-2-carbethoxy-6-nitroindole.

reactant | 3-amino-2-carbethoxy-6-nitroindole | 0.6 mmol | NC1=C(NC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OCC | C11H11N3O4
reactant | triethylamine | 0.62 mmol | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.62 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[(phenacyl)amino]-2-carbethoxy-6-nitroindole | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OCC | C19H17N3O5
